US09023858B2
B) 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3,5,6-tetrahydropyrido[2,3-d]pyrimidine-4,7(1H,8H)-dione
To a solution of 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene (1.77 g) in N,N-dimethylformamide (25 mL) was added sodium hydride (60% in oil, 0.478 g) under ice-cooling. The reaction mixture was stirred for 5 min under ice-cooling, diethyl 2-carbamimidoylpentane-1,5-dioate (2.5 g) was added thereto, and the mixture was stirred for 30 min under ice-cooling. To the reaction mixture was added 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in ethanol (25 mL), sodium ethoxide (20% ethanol solution, 10.6 mL) was added thereto, and the mixture was stirred for 30 min. To the reaction mixture was added 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.75 g).

reactant | 1-isothiocyanato-4-(2,2,2-trifluoroethoxy)benzene | 1.77 g | N(=C=S)C1=CC=C(C=C1)OCC(F)(F)F | C9H6F3NOS
reactant | sodium hydride | 0.478 g | [H-].[Na+]
reactant | diethyl 2-carbamimidoylpentane-1,5-dioate | 2.5 g | C(N)(=N)C(C(=O)OCC)CCC(=O)OCC | C10H18N2O4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3,5,6-tetrahydropyrido[2,3-d]pyrimidine-4,7(1H,8H)-dione | 0.75 g | S=C1N(C(C2=C(N1)NC(CC2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C15H12F3N3O3S
